US04297350
A solution of sodium borohydride (600 mg.) in ice-cold methanol (10 ml.) is added to a solution of 2α,3α-epoxy-5α-androstan-17-one (U.S. Pat. No. 3,169,136, Example I, 1.34 g.) in methanol (60 ml.) and the mixture is stirred at 0° for 30 minutes. The mixture is washed with saline, dried over sodium sulfate and concentrated under reduced pressure to give a residue which is chromatographed on a silica gel column. Appropriate fractions (TLC) are pooled and concentrated to give 2α,3α-epoxy-17β-hydroxy-5α-androstane.

reactant | sodium borohydride | 600 mg | [BH4-].[Na+]
reactant | 2α,3α-epoxy-5α-androstan-17-one | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]1(C2)C)=O | C19H28O2
solvent | methanol | 60 ml | CO | CH4O
product | 2α,3α-epoxy-17β-hydroxy-5α-androstane | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O | C19H30O2
